US05866594
Synthesis of methyl 3-acetyl-4-chloro-7-methylindole-2-carboxylate (compound 59)
To 10 ml of anhydrous acetonitrile were added 0.74 ml (12.9 mmol) of acetic acid and 0.4 g of polyphosphoric acid. After the air in the reaction system was replaced with nitrogen, 1.86 ml (12.9 mmol) of trifluoroacetic anhydride was added and the reaction mixture was stirred at room temperature for 10 minutes. 10 ml of a solution of 1.0 g (4.3 mmol) of methyl 4-chloro-7-methylindole-2-carboxylate in acetonitrile was added dropwise over a period of 15 minutes and the reaction mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into 100 ml of ice water and extracted with 15 ml of ethyl acetate three times. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude crystals were purified by silica gel column chromatography to provide 270 mg of white crystals. Yield: 25%

reactant | acetic acid | 12.9 mmol, 0.74 ml | C(C)(=O)O | C2H4O2
reactant | trifluoroacetic anhydride | 12.9 mmol, 1.86 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl 4-chloro-7-methylindole-2-carboxylate | 4.3 mmol, 1.0 g | ClC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C11H10ClNO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 3-acetyl-4-chloro-7-methylindole-2-carboxylate | 270 mg, Yield: 25% | C(C)(=O)C1=C(NC2=C(C=CC(=C12)Cl)C)C(=O)OC | C13H12ClNO3
